US09227985B2
Step 4. 4-Phenyl-5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2(1H)-one
A suspension of 1-methoxy-4-phenyl-5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2(1H)-one (0.575 g, 2.05 mmol) in ethanol (35.9 mL, 615 mmol) was heated to dissolve residual solids and the resulting solution was cooled to room temperature. The solution was treated with acetic acid (0.233 mL, 4.10 mmol), degassed with nitrogen, treated with palladium catalyst (0.575 g, 100 wt %) (10% Pd on carbon, Degussa type) and hydrogenated for 17 h. The reaction mixture was filtered and the catalyst was washed with ethanol and methanol. The filtrate was then concentrated to give the desired product (0.436 g, 85%) as a racemic mixture that was used without further purification. LCMS calculated for C16H15N2O (M+H)+: m/z=251.1. found: 251.1.

reactant | 1-methoxy-4-phenyl-5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2(1H)-one | 2.05 mmol, 0.575 g | CON1C(N2C(CCC3=CC=CC1=C23)C2=CC=CC=C2)=O | C17H16N2O2
reactant | ethanol | 615 mmol, 35.9 mL | C(C)O | C2H6O
reactant | acetic acid | 4.10 mmol, 0.233 mL | C(C)(=O)O | C2H4O2
product | 4-Phenyl-5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2(1H)-one | 0.436 g, 85% | C1(=CC=CC=C1)C1N2C3=C(C=CC=C3CC1)NC2=O | C16H14N2O
